US09388197B2
A.1.1.2. Methyl 4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate
At 0° C., finely crushed P4S10 (9.35 g, 21.0 mmol) was added to a mixture of formamide (4.73 g, 105.0 mmol) in dioxane (28.5 mL). Subsequently, the mixture was stirred in a sealed vial at 100° C. for 1.5 h, cooled to RT and filtrated. The filtrate was added to a mixture of methyl 2-bromo-3-oxocyclohexanecarboxylate (2.06 g, 8.76 mmol) in dioxane (16.5 mL) and stirred in a sealed vial at 80° C. overnight. The mixture was quenched by the addition of aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (10-40% EtOAc/Hept) provided a yellow oil.

reactant | P4S10 | 21.0 mmol, 9.35 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | formamide | 105.0 mmol, 4.73 g | C(=O)N | CH3NO
reactant | methyl 2-bromo-3-oxocyclohexanecarboxylate | 8.76 mmol, 2.06 g | BrC1C(CCCC1=O)C(=O)OC | C8H11BrO3
solvent | dioxane | 28.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 16.5 mL | O1CCOCC1 | C4H8O2
product | Methyl 4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | S1C=NC2=C1C(CCC2)C(=O)OC | C9H11NO2S
